US08283353B2
4′-{[2-methyl-4-(1-methylpropyl)-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile
A mixture of 4′-[(2-methyl-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl)methyl]biphenyl-2-carbonitrile (1.5 g), 2-iodobutane (1.4 mL), potassium carbonate (1 g) and N,N-dimethylacetamide (15 mL) was stirred at 100° C. for 16 hr. The reaction mixture was diluted with ethyl acetate, washed with 5% aqueous potassium hydrogensulfate solution and then with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography to give the title compound as a colorless solid (0.36 g, 22%).

reactant | 4′-[(2-methyl-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl)methyl]biphenyl-2-carbonitrile | 1.5 g | CC1=NN2C(NC(C(=C2CCC)CC2=CC=C(C=C2)C=2C(=CC=CC2)C#N)=O)=N1 | C23H21N5O
reactant | 2-iodobutane | 1.4 mL | IC(C)CC | C4H9I
reactant | potassium carbonate | 1 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylacetamide | 15 mL | CN(C(C)=O)C | C4H9NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4′-{[2-methyl-4-(1-methylpropyl)-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile | 0.36 g, 22% | CC1=NN2C(N(C(C(=C2CCC)CC2=CC=C(C=C2)C=2C(=CC=CC2)C#N)=O)C(CC)C)=N1 | C27H29N5O
